### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/Group/Basic): product of compact set and closed set is closed

### PR DESCRIPTION
**Pull request by ADedecker**
Also adds the version for group actions, and the consequence that if we quotient by a compact subgroup then the quotient map is closed.

I also made some syntax tweaks in some places, mainly making use of our great new implicit functions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

This isn't part of any project at all, I just wanted something to do on the plane :sweat_smile:

### CODE REVIEW

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 1]
```diff
@@ -1666,7 +1724,7 @@ variable [TopologicalSpace G] [Group G] [TopologicalGroup G]
 @[to_additive]
 theorem nhds_mul (x y : G) : 𝓝 (x * y) = 𝓝 x * 𝓝 y :=
   calc
-    𝓝 (x * y) = map ((· * ·) x) (map (fun a => a * y) (𝓝 1 * 𝓝 1)) := by simp
+    𝓝 (x * y) = map (x * ·) (map (· * y ) (𝓝 1 * 𝓝 1)) := by simp
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1727]:
```suggestion
    𝓝 (x * y) = map (x * ·) (map (· * y) (𝓝 1 * 𝓝 1)) := by simp
```

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 2]
```diff
@@ -1252,6 +1252,44 @@ theorem subset_interior_smul : interior s • interior t ⊆ interior (s • t)
 
 end ContinuousConstSMul
 
+section ContinuousSMul
+
+variable [TopologicalSpace α] [TopologicalSpace β] [Group α] [MulAction α β] [ContinuousInv α]
+  [ContinuousSMul α β] {s : Set α} {t : Set β}
+
+@[to_additive]
+theorem IsClosed.smul_left_of_isCompact (ht : IsClosed t) (hs : IsCompact s) :
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1261]: Is the right version `IsClosed.smul_right_of_isCompact` true? If yes, it would be worth proving. If not, it would be worth adding a comment to highlight the difficulty.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Group/Basic.lean:1261]: Well it works if given `x` and `y` in the same orbit, we have a continuous (in `y`, `x` is fixed) way to choose an actual `g` such that `x = gy`. That would be the case for an `AddTorsor`, but there's no nice way to state it in general. I'll add a comment.

File: Mathlib/Topology/Algebra/Group/Basic.lean [hunk 3]
```diff
@@ -1252,6 +1252,48 @@ theorem subset_interior_smul : interior s • interior t ⊆ interior (s • t)
...
 
+section ContinuousSMul
+
+variable [TopologicalSpace α] [TopologicalSpace β] [Group α] [MulAction α β] [ContinuousInv α]
+  [ContinuousSMul α β] {s : Set α} {t : Set β}
+
+/- One may expect a version of the following lemma where `t` is compact and `s` is closed,
+but to do that we would need to ensure that, if `x` is fixed, then we can continuously
+map each `y ∈ s • {x}` to some `g ∈ s` such that `y = g • x`. One case where this is true is
+for `NormedAddTorsor`s, but we don't have a really nice way to state it more generally. -/
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Group/Basic.lean:1263]: In fact there can't be any reasonable such lemma: for a counterexample, consider Q acting on R by translation, and `s = univ` (which is closed) and `t= {0}` which is compact, but `s • t` is not closed. The issue is that compactness is somewhat intrinsic (the image of a compact set under an embedding is always compact) while closedness is not. Note that this counterexample is also a counterexample to your `NormedAddTorsor` claim, if I understand correctly, so the comment might be worth updating.

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Group/Basic.lean:1263]: That's a nice counterexample! I will include it in the comment.
Indeed my current claim is partially false, but I think it is still true for `NormedAddTorsor` (R is not an add torsor on Q right? Because the action is not transitive). I think the correct conditions are:
- there is a continuous map from `s • {x}` to `s` such which, given a `y`, finds a `g` such that `y = g • x`. This is true for `NormedAddTorsor` since `VSub` is continuous.
- each `s • {x}` is closed! This is also true for `NormedAddTorsor` since `s • {x}` is the preimage of `s` under `y ↦ vsub y x`, but this is clearly what fails in your example. 

I'm pretty sure a similar proof would work under these hypotheses but I don't think it's useful. I think I'll add the `NormedAddTorsor` version though, so that we have a definitive answer on this side.

**Comment by sgouezel** [comment]
bors r+
Thanks!
